US04894366
To a solution of the FR-900506 substance (30.5 mg) in pyridine (1 ml) was added p-nitrobenzoyl chloride (ca. 100 mg), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, and washed with a saturated aqueous sodium hydrogen carbonate, water, 1N-hydrochloric acid, water, a saturated aqueous sodium hydrogen carbonate, water and an aqueous sodium chloride, successively, and then dried. The resulting solution was concentrated under reduced pressure, and the residue was purified on silica gel column chromatography to give 17-allyl-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-12-[2-[4-(p-nitrobenzoyloxy)-3-methoxycyclohexyl]-1-methylvinyl]-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (37.7 mg).

reactant | FR-900506 | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
reactant | p-nitrobenzoyl chloride | ca. 100 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-allyl-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-12-[2-[4-(p-nitrobenzoyloxy)-3-methoxycyclohexyl]-1-methylvinyl]-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 37.7 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)OC)C)C)O)=O | C51H72N2O15
